US07291635B2
To a solution of 450 mg (2.06 mmol) of the title D compound, 1-ethyl-2-methyl-1H-benzoimidazole-5-carboxylic acid methyl ester in 5 mL of THF is added dropwise 2.1 mL (2.1 mmol) of lithium aluminum hydride (LAH, 1.0M in THF). The mixture is stirred at RT for 90 min, then saturated aqueous sodium sulfate solution is carefully added dropwise until a thick precipitate formed. MTBE is added to the mixture and the insoluble aluminum salts are removed by filtration through Celite. The solvent is removed under reduced pressure to give (1-ethyl-2-methyl-1H-benzoimidazol-5-yl)-methanol as an oil: 1H-NMR (CDCl3) δ 7.63 (s, 1H), 7.28 (m, 2H), 4.77 (s, 2H), 4.16 (q, 2H), 3.74 (t, broad, 1H), 2.60 (s, 3H), 1.40 (t, 3H); [M+1]+=191.

reactant | 1-ethyl-2-methyl-1H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N(C(=N2)C)CC)C=C1 | C12H14N2O2
reactant | lithium aluminum hydride | 2.1 mmol, 1.0M, 2.1 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | MTBE | CC(C)(C)OC | C5H12O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (1-ethyl-2-methyl-1H-benzoimidazol-5-yl)-methanol | C(C)N1C(=NC2=C1C=CC(=C2)CO)C | C11H14N2O
